US05877342
Preparation of 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzoylthio]benzoic acid
850 mg (5.5 mmol) of 4-mercaptobenzoic acid and 20 ml of pyridine were introduced into a round-bottomed flask. A solution of 2.08 g (5.5 mmol) of 4-(1-adamantyl)-3-methoxyethoxymethoxybenzoyl chloride prepared above was added dropwise and the mixture was stirred at room temperature for six hours. It was evaporated to dryness and the residue was taken up in water and ethyl acetate and acidified to pH 5, and the organic phase was separated out after settling had taken place, washed with water, dried over magnesium sulfate and evaporated. The solid obtained was purified by chromatography on a column of silica, eluted with a mixture of dichloromethane and methanol (98/2). 1.5 g (57%) of 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzoylthio]benzoic acid, having a melting point of 219°-21° C., was recovered.

reactant | 4-mercaptobenzoic acid | 5.5 mmol, 850 mg | SC1=CC=C(C(=O)O)C=C1 | C7H6O2S
reactant | 4-(1-adamantyl)-3-methoxyethoxymethoxybenzoyl chloride | 5.5 mmol, 2.08 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=O)Cl)C=C2)OCOCCOC | C21H27ClO4
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzoylthio]benzoic acid | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=O)SC3=CC=C(C(=O)O)C=C3)C=C2)OCOCCOC | C28H32O6S
